US05270447
20 g Brij 35
A trichloroacetic acid-tannic acid-proline solution (TCATAP) was prepared to obtain a final concentration of 10% TCA, 0.5% tannic acid, 2 mM proline. This involved the combining of 10 ml of 100% trichloroacetic acid solution, 10 ml of 5% tannic acid solution and 1 ml of 200 mM proline solution, diluting to 100 ml final volume and store at 4° C., and replacing this solution every 4 weeks.

reactant | trichloroacetic acid | 10 ml | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | proline | 200 mM, 1 ml | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | tannic acid | 10 ml | C1=C(C=C(C(=C1O)O)O)C(=O)OC=2C=C(C=C(C2O)O)C(=O)OC[C@@H]3[C@H]([C@@H]([C@H]([C@@H](O3)OC(=O)C=4C=C(C(=C(C4)OC(=O)C=5C=C(C(=C(C5)O)O)O)O)O)OC(=O)C=6C=C(C(=C(C6)OC(=O)C=7C=C(C(=C(C7)O)O)O)O)O)OC(=O)C=8C=C(C(=C(C8)OC(=O)C=9C=C(C(=C(C9)O)O)O)O)O)OC(=O)C=1C=C(C(=C(C1)OC(=O)C=1C=C(C(=C(C1)O)O)O)O)O | C76H52O46
product | Brij 35 | CCCCCCCCCCCCOCCO | C14H30O2
